US04053601
3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine was reacted with but-3-enyl bromide under similar conditions to those described in Example 7a(i) to give 6-(4-but-3-enyloxy-2-hydroxyphenyl)-3-chloropyridazine.

reactant | 3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)O)O | C10H7ClN2O2
reactant | but-3-enyl bromide | C(CC=C)Br | C4H7Br
product | 6-(4-but-3-enyloxy-2-hydroxyphenyl)-3-chloropyridazine | C(CC=C)OC1=CC(=C(C=C1)C1=CC=C(N=N1)Cl)O | C14H13ClN2O2
